US09376418B2
Dioxane (2.70 mL), tert-butyl 4-(5-bromopyridin-3-yl)-4-hydroxypiperidine-1-carboxylate (207 mg, 0.580 mmol), and sodium carbonate (2 M, 791 μL, 1.58 mmol) was added to N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine (200 mg, 0.527 mmol) and purged and flushed with Ar(g) (3×). PdCl2(dppf)-dichloromethane adduct (21.5 mg, 0.026 mmol) was added to the reaction mixture and heated to 100° C. for 8 hours. The reaction mixture was cooled to room temperature, filtered through CELITE, washed with dichloromethane and extracted with water. The organic layer was dried over sodium sulfate, and was concentrated under reduced pressure. The residue was purified by silica gel chromatography (acetone/hexanes) to yield tert-butyl 4-hydroxy-4-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-3-yl]piperidine-1-carboxylate. MS APCI calc'd for C27H31F3N5O3 [M+H]+ 530. found 530.

reactant | tert-butyl 4-(5-bromopyridin-3-yl)-4-hydroxypiperidine-1-carboxylate | 0.580 mmol, 207 mg | BrC=1C=C(C=NC1)C1(CCN(CC1)C(=O)OC(C)(C)C)O | C15H21BrN2O3
reactant | sodium carbonate | 1.58 mmol, 2 M, 791 μL | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-[3-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 0.527 mmol, 200 mg | CC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NC1=NC=CC(=N1)C(F)(F)F | C18H21BF3N3O2
catalyst | PdCl2(dppf) dichloromethane | 0.026 mmol, 21.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
solvent | Dioxane | 2.70 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 4-hydroxy-4-[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-3-yl]piperidine-1-carboxylate | OC1(CCN(CC1)C(=O)OC(C)(C)C)C=1C=NC=C(C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C | C27H30F3N5O3
